US09216999B2
Cyclohexyl(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)methanamine
Cyclohexyl(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)methanone (406 mg, 1.13 mmol) in methanol (10 ml) was stirred with hydroxylamine hydrochloride (395 mg, 5.66 mmol) for 4 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in ethanol (3.0 mL), mixed with ammonium acetate (105 mg, 1.36 mmol), water (3 mL) and aqueous ammonia (5 mL) and refluxed with zinc powder (600 mg, 9.17 mmol) for 4 hours. The reaction mixture was allowed to cool to room temperature and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hi Flash column amino type manufactured by Yamazen Corporation: chloroform/methanol=20/1 (v/v)) to give the title compound as a yellow oil (390 mg, yield 79%).

reactant | Cyclohexyl(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)methanone | 1.13 mmol, 406 mg | C1(CCCCC1)C(=O)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C19H29N3O2Si
reactant | hydroxylamine hydrochloride | 5.66 mmol, 395 mg | Cl.NO
reactant | ammonium acetate | 1.36 mmol, 105 mg | C(C)(=O)[O-].[NH4+]
reactant | ammonia | 5 mL | N | H3N
solvent | methanol | 10 ml | CO | CH4O
catalyst | zinc | 9.17 mmol, 600 mg | [Zn] | Zn
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | 3 mL | O | H2O
product | Cyclohexyl(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)methanamine | 390 mg, yield 79% | C1(CCCCC1)C(N)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C19H32N4OSi
